US07011838B2
First, 10.0 g of 4-(trifluoromethylthio)benzaldehyde and 2.92 g of malononitrile were dissolved in 50 ml of 70% (w/w) aqueous ethanol, to which a catalytic amount of benzyltrimethylammonium hydroxide was added, and the mixture was stirred at room temperature overnight. Then, a saturated aqueous sodium chloride solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was recrystallized with a solvent system consisting of t-butyl methyl ether and hexane to give 10.5 g of (4-(trifluoromethylthio)benzylidene)malononitrile.

reactant | 4-(trifluoromethylthio)benzaldehyde | 10.0 g | FC(SC1=CC=C(C=O)C=C1)(F)F | C8H5F3OS
reactant | malononitrile | 2.92 g | C(CC#N)#N | C3H2N2
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | (4-(trifluoromethylthio)benzylidene)malononitrile | 10.5 g, Yield: 85% | FC(SC1=CC=C(C=C(C#N)C#N)C=C1)(F)F | C11H5F3N2S
